US06673927B2
2′-Methylacetophenone (25.0 g, 186 mMole) was dissolved in glacial acetic acid (250 ml) and concentrated HCl (250 uL) was added followed by a dropwise addition of bromine (9.6 ml, 186 mMole) over 15 minutes. The mixture was stirred 3 hours and then concentrated under reduced pressure. The residue was taken up in ethyl ether and washed with saturated NaHCO3 solution. The ether layer was dried over Na2SO4, filtered, and concentrated to yield 38.0 g, (96%) of crude 2-bromo-2′-methylacetophenone which was used without further purification.

reactant | 2′-Methylacetophenone | 186 mMole, 25.0 g | CC1=C(C=CC=C1)C(C)=O | C9H10O
reactant | HCl | 250 uL | Cl | ClH
reactant | bromine | 186 mMole, 9.6 ml | BrBr | Br2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-2′-methylacetophenone | 96% | BrCC(=O)C1=C(C=CC=C1)C | C9H9BrO
